US04333950
In a manner similar to Example 13A, the reaction of 13.0 g (0.0436 mole) of (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylic acid, 50 ml of toluene, and 11.1 g (0.0873 mole) of oxalyl chloride gave 7.0 g of (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarbonyl chloride. The nmr spectrum was consistent with the proposed structure.

reactant | (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 0.0436 mole, 13.0 g | BrC(=C[C@H]1C([C@H]1C(=O)O)(C)C)Br | C8H10Br2O2
reactant | oxalyl chloride | 0.0873 mole, 11.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-cis-3-(2,2-dibromoethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 7.0 g | BrC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Br | C8H9Br2ClO
